US07410976B2
30.0 g of methyl 8-cyclopropyl-4-methoxyquinoline-2-carboxylate, 250 ml of THF and 400 ml of MeOH was placed in 2 L-flask, and 46 ml of 5N NaOH aq. was added, and stirred for 1 h. The mixture was concentrated in vacuo and diluted with water. 46 ml of 5N HCl aq. was added with cooling in ice bath, extracted with 500 ml of CHCl3-MeOH (4-1), dried over Na2SO4 and filtered. The filtrate was concentrated to afford a yellow solid. The solid was washed with hexane-CHCl3, filtered and dried under vacuum to afford 8-cyclopropyl-4-methoxyquinoline-2-carboxylic acid.

reactant | methyl 8-cyclopropyl-4-methoxyquinoline-2-carboxylate | 30.0 g | C1(CC1)C=1C=CC=C2C(=CC(=NC12)C(=O)OC)OC | C15H15NO3
reactant | THF | 250 ml | C1CCOC1 | C4H8O
reactant | NaOH | 5N, 46 ml | [OH-].[Na+]
solvent | MeOH | 400 ml | CO | CH4O
product | 8-cyclopropyl-4-methoxyquinoline-2-carboxylic acid | C1(CC1)C=1C=CC=C2C(=CC(=NC12)C(=O)O)OC | C14H13NO3
